US06416939B1
Next, into a flask of 200 ml capacity fitted with a stirrer and cooling tube, there were introduced 14.9 g of 1-(2-chloroethyl)-4-nitroindole, 18.0 g of potassium methacrylate, 6.0 g of potassium iodide, 40 ml of N, N-methyl formamide and a small quantity of hydroquinone, these then being heated to 100° C., and stirred for 2.5 hours. After the reaction had been completed, insoluble material was removed by filtration, and concentration was performed under reduced pressure. Furthermore, this reaction mixture was purified by column chromatography using silica gel, to obtain 16.8 g of 1-(2-methacryloyloxyethyl)-4-nitroindole.

reactant | 1-(2-chloroethyl)-4-nitroindole | 14.9 g | ClCCN1C=CC2=C(C=CC=C12)[N+](=O)[O-] | C10H9ClN2O2
reactant | potassium methacrylate | 18.0 g | C(C(=C)C)(=O)[O-].[K+]
reactant | potassium iodide | 6.0 g | [I-].[K+]
reactant | N-methyl formamide | CNC=O | C2H5NO
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
product | 1-(2-methacryloyloxyethyl)-4-nitroindole | 16.8 g | C(C(=C)C)(=O)OCCN1C=CC2=C(C=CC=C12)[N+](=O)[O-] | C14H14N2O4
